* Parameterized BVM clone for bvm-rloop-one-shot-tuning-v1.
* Topology is copied from the current canonical BVM source. Values are
* rendered from USER_CASE.env by scripts/try_candidate.py. The registered
* Stage-A perturbation was limited to optional parallel R-loop shunts, while
* the remaining canonical values stay visible for later authorized rounds.

.subckt BVM WL BL SE SL

* === WL+BL merge at Node '2' ===
R_BL    BL      1       {{RBL}}
L_PBL   1       2       {{LPBL}}
R_WL    WL      13      {{RWL}}
L_PWL   13      2       {{LPWL}}

* === S-loop ===
B_JM1   2       7       jjmit area={{JM1_AREA}}
{{RJM1_LINE}}
L_M1    7       0       {{LM1}}

L_M2    2       3       {{LM2}}
B_JM2   3       4       jjmit area={{JM2_AREA}}
{{RJM2_LINE}}

L_M3    4       8       {{LM3}}
L_PM    8       0       {{LPM}}

* === R-loop upper branch ===
L_S1    4       5       {{LS1}}
B_JS1   5       6       jjmit area={{JS1_AREA}}
{{R_JS1_SHUNT}}

* === SE into N3 ===
R_SE    SE      14      {{RSE}}
L_PSE   14      6       {{LPSE}}

* === R-loop bridge network ===
R_S     6       10      {{RS}}
L_S3    6       10      {{LS3}}

* === R-loop lower branch ===
L_S2    8       9       {{LS2}}
B_JS2   9       10      jjmit area={{JS2_AREA}}
{{R_JS2_SHUNT}}

* === Output chain ===
L_PSL   10      11      {{LPSL}}
R_SL    11      12      {{RSL}}
L_SL    12      SL      {{LSL}}

.ends BVM
